US09169187B2
To bis-(4-docosoxy-phenyl)-methanol (28.5 g, 34.2 mmol) were added toluene (350 mL), ethyl carbamate (6.1 g, 68.5 mmol) and methanesulfonic acid (333 μL, 5.14 mmol) and the mixture was stirred at 110° C. for 2 hr. Methanesulfonic acid (333 μL, 5.14 mmol) was added and the mixture was stirred for 30 min. After stirring, the reaction mixture was cooled to room temperature, sodium carbonate (1.1 g, 8.73 mmol) was added and the solvent was evaporated. The residue was crystallized from methanol (400 mL) to give ethyl [bis-(4-docosoxy-phenyl)-methyl]carbamate (32.1 g, 100%).

reactant | bis-(4-docosoxy-phenyl)-methanol | 34.2 mmol, 28.5 g | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC | C57H100O3
reactant | ethyl carbamate | 68.5 mmol, 6.1 g | C(N)(OCC)=O | C3H7NO2
reactant | methanesulfonic acid | 5.14 mmol, 333 μL | CS(=O)(=O)O | CH4O3S
reactant | Methanesulfonic acid | 5.14 mmol, 333 μL | CS(=O)(=O)O | CH4O3S
reactant | sodium carbonate | 8.73 mmol, 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl [bis-(4-docosoxy-phenyl)-methyl]carbamate | 32.1 g, 100% | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC)NC(OCC)=O | C60H105NO4
